US07910740B2
To a solution of 35 mg (0.09 mmol) {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-5-yl}-phenyl-methanol in methylene chloride (2 ml) 12 mg (0.1 mmol) triethylsilane was added at room temperature and trifluoro acetate (2 ml) was added. The reaction was stirred at room temperature for 6 hours and the solvent was evaporated under reduced pressure. The residue was suspended in saturated aqueous sodium hydrogen carbonate solution and extracted twice with methylene chloride. The combined organic layers were washed with brine, dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure to yield 33 mg (98%) (5-benzyl-thiazol-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a brown solid. MS ISP (m/e): 377.4 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.64 (s, 1H), 7.53 (s, 1H), 7.35-7.22 (m, 7H), 7.07 (s, 1H), 7.01 (s, 1H), 4.03 (s, 2H), 3.77 (s, 3H), 2.13 (s, 3H).

reactant | {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-5-yl}-phenyl-methanol | 0.09 mmol, 35 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C(O)C1=CC=CC=C1 | C21H20N4O2S
reactant | methylene chloride | 0.1 mmol, 2 ml, 12 mg | C(Cl)Cl | CH2Cl2
product | (5-benzyl-thiazol-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 33 mg, 98% | C(C1=CC=CC=C1)C1=CN=C(S1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H20N4OS
